US07153854B2
A solution of tert-butyl 2-(3-chlorobenzoyl)-3-oxobutanoate (8.82 g) in trifluoroacetic acid (40 mL) was stirred for 1 hour under an ice-bath. The volatile was removed in vacuo, and the residue was partitioned between ethyl acetate (150 mL) and saturated sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated to give 1-(3-chlorophenyl)-1,3-butanedione as a pale orange crystal (5.33 g).

reactant | tert-butyl 2-(3-chlorobenzoyl)-3-oxobutanoate | 8.82 g | ClC=1C=C(C(=O)C(C(=O)OC(C)(C)C)C(C)=O)C=CC1 | C15H17ClO4
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(3-chlorophenyl)-1,3-butanedione | 5.33 g | ClC=1C=C(C=CC1)C(CC(C)=O)=O | C10H9ClO2
